US04612376
To a mixture of ethyl veratroylacetate (10 g) and N,N'-dimethylurea (3.84 g) were added conc. hydrochloric acid (1 drop) and ethanol (1 ml). The mixture was heated at 120° C. for 3.5 hours under reduced pressure. To the residue was added another conc. hydrochloric acid (2 drops) and the mixture was heated again at 120° C. for 4 hours under reduced pressure. To the reaction mixture was added water and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with a mixture of isopropyl ether and ethyl acetate to give 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-2,4(1H,3H)pyrimidinedione (7.60 g).

reactant | ethyl veratroylacetate | 10 g | C(C1=CC(OC)=C(OC)C=C1)(=O)CC(=O)OCC | C13H16O5
reactant | N,N'-dimethylurea | 3.84 g | CNC(=O)NC | C3H8N2O
reactant | ethanol | 1 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 1 drop | Cl | ClH
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | O | H2O
product | 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-2,4(1H,3H)pyrimidinedione | 7.60 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=O | C14H16N2O4
